US07585885B2
(2R,4R)-2-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-4-benzyloxypyrrolidine-1-carboxylic acid tert-butyl ester
Add sodium borohydride (0.242 mg, 6.42 mmol) over 1 minute to a solution of (2R,4R)-4-benzyloxy-2-[(1R,2S)-3-(3,5-difluorophenyl)-1-hydroxy-2-nitropropyl]pyrrolidine-1-carboxylic acid tert-butyl ester (0.696 g, 1.41 mmol) and nickel (II) chloride (0.29 g, 2.25 mmol) in methanol (30 mL) at room temperature. Stir 20 minutes, add water (3 mL) and evaporate the methanol. Partition the residue with ethyl acetate and water. Filter through a filtering agent, wash with ethyl acetate (300 mL), separate away the aqueous layer, wash with saturated aqueous sodium chloride, dry (magnesium sulfate), filter and concentrate to give the title compound as a colorless oil (619 mg, 95%).

reactant | sodium borohydride | 6.42 mmol, 0.242 mg | [BH4-].[Na+]
reactant | (2R,4R)-4-benzyloxy-2-[(1R,2S)-3-(3,5-difluorophenyl)-1-hydroxy-2-nitropropyl]pyrrolidine-1-carboxylic acid tert-butyl ester | 1.41 mmol, 0.696 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OCC1=CC=CC=C1)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)[N+](=O)[O-])O | C25H30F2N2O6
reactant | water | 3 mL | O | H2O
solvent | methanol | 30 mL | CO | CH4O
catalyst | nickel (II) chloride | 2.25 mmol, 0.29 g | [Ni](Cl)Cl
product | (2R,4R)-2-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-4-benzyloxypyrrolidine-1-carboxylic acid tert-butyl ester | 619 mg, 95% | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OCC1=CC=CC=C1)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O | C25H32F2N2O4
